US04927838
The reaction was performed as in Example 87 using sodium hydride (56% dispersion in oil; 9.5 g) dimethylsulfoxide (100 mL), (3-carboxypropyl)triphenylphosphonium chloride (35 g), 4,4'-difluorobenzophenone (23.8 g) and tetrahydrofuran (100 mL). After the usual work up, the crude product was crystallized from ether-hexane to furnish 18.2 g of 5,5-bis(4-fluorophenyl)-4-pentenoic acid, mp 100°-100° C. Anal. Calculated for C17H14F2O2 : C, 70.82; H, 4.89. Found: C, 70.77; H, 5.00.

reactant | sodium hydride | 9.5 g | [H-].[Na+]
reactant | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
reactant | (3-carboxypropyl)triphenylphosphonium chloride | 35 g | [Cl-].C(=O)(O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4,4'-difluorobenzophenone | 23.8 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5,5-bis(4-fluorophenyl)-4-pentenoic acid | 18.2 g | FC1=CC=C(C=C1)C(=CCCC(=O)O)C1=CC=C(C=C1)F | C17H14F2O2
